US08283353B2
4-(1-benzylpiperidin-4-yl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of hydroxylammonium chloride (1.44 g), sodium hydrogen carbonate (2.32 g) and dimethyl sulfoxide (15 mL) was stirred at 50° C. for 30 min, a solution of 4′-{[4-(1-benzylpiperidin-4-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (749 mg) in dimethyl sulfoxide (3 mL) was added, and the mixture was stirred at 90° C. for 17 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (10 mL). N,N′-Carbonyldiimidazole (269 mg) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (0.25 mL) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=50/50→10/90 (volume ratio)], and crystallized from a mixture of ethyl acetate and diisopropyl ether to give the title compound as colorless crystals (133 mg, 16%).

reactant | hydroxylammonium chloride | 1.44 g | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 2.32 g | C(O)([O-])=O.[Na+]
reactant | 4′-{[4-(1-benzylpiperidin-4-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 749 mg | C(C1=CC=CC=C1)N1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C34H34N6O
solvent | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
product | 4-(1-benzylpiperidin-4-yl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 133 mg, 16% | C(C1=CC=CC=C1)N1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2 | C35H35N7O3
